US08039455B2
a) N-(2,2-Dimethoxy-ethyl)-5-nitro-isophthalamic acid methyl ester
Under ice cooling a solution of 22.1 g (90.7 mmol) of 3-chlorocarbonyl-5-nitro-benzoic acid methyl ester (U.S. Pat. No. 4,120,891) in 200 ml of DCM is added dropwise to a stirred suspension of 11.2 g (181 mmol) of K2CO3 and 11.7 ml (109 mmol) of aminoacetaldehyde dimethylacetal in 200 ml of DCM. The mixture is stirred at ambient temperature for 2 days, diluted with ethyl acetate and extensively washed with water. The organic phase is dried over sodium sulfate and evaporated to yield the product in the form of a yellow oil.

reactant | 3-chlorocarbonyl-5-nitro-benzoic acid methyl ester | 90.7 mmol, 22.1 g | COC(C1=CC(=CC(=C1)[N+](=O)[O-])C(=O)Cl)=O | C9H6ClNO5
reactant | K2CO3 | 181 mmol, 11.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | aminoacetaldehyde dimethylacetal | 109 mmol, 11.7 ml | COC(CN)OC | C4H11NO2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2,2-Dimethoxy-ethyl)-5-nitro-isophthalamic acid methyl ester | COC(C1=CC(C(=O)NCC(OC)OC)=CC(=C1)[N+](=O)[O-])=O | C13H16N2O7
